US09029545B2
3-Chloro-N-{6-methyl-2-(1H-pyrazol-4-yl)-3-[3-(1-pyrrolidinyl)phenyl]thieno[2,3-b]pyridin-4-yl}benzenesulfonamide
A mixture of 1,1-dimethylethyl 4-(3-bromo-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methylthieno[2,3-b]pyridin-2-yl)-1H-pyrazole-1-carboxylate (Description 75) (200 mg, 0.343 mmol), 1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrrolidine (140 mg, 0.514 mmol), potassium carbonate (142 mg, 1.03 mmol), tetrakis(triphenylphosphine)palladium(0) (39.6 mg, 0.034 mmol) and bis(triphenylphosphine)palladium(II) chloride (24.04 mg, 0.034 mmol) were weighed into a microwave vial. 1,4-Dioxane (3.0 mL), DMF (1.5 mL) and water (0.75 mL) were added and the mixture heated in a microwave at 120° C. for 30 min. At this point, the four reaction mixtures were combined and concentrated. The residue was passed through an SCX cartridge, eluting with MeOH (250 mL) and then 2M NH3 in MeOH (300 mL). The basic methanolic solution was concentrated and purified by normal phase chromatography eluting with 0-10% 2M NH3 in MeOH in DCM. Further purification by normal phase chromatography eluting with 0-100% ethyl acetate in cyclohexane followed by MDAP (acidic conditions), afforded the title compound (190 mg).

reactant | 1,1-dimethylethyl 4-(3-bromo-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methylthieno[2,3-b]pyridin-2-yl)-1H-pyrazole-1-carboxylate | 0.343 mmol, 200 mg | BrC1=C(SC2=NC(=CC(=C21)NS(=O)(=O)C2=CC(=CC=C2)Cl)C)C=2C=NN(C2)C(=O)OC(C)(C)C | C22H20BrClN4O4S2
reactant | 1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrrolidine | 0.514 mmol, 140 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1CCCC1)C | C16H24BNO2
reactant | potassium carbonate | 1.03 mmol, 142 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-Dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.034 mmol, 39.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.034 mmol, 24.04 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.75 mL | O | H2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3-Chloro-N-{6-methyl-2-(1H-pyrazol-4-yl)-3-[3-(1-pyrrolidinyl)phenyl]thieno[2,3-b]pyridin-4-yl}benzenesulfonamide | 190 mg | ClC=1C=C(C=CC1)S(=O)(=O)NC1=C2C(=NC(=C1)C)SC(=C2C2=CC(=CC=C2)N2CCCC2)C=2C=NNC2 | C27H24ClN5O2S2
